US06051712
0.5 ml of hydrogen peroxide (33%) and 0.2 ml of 2N sodium hydroxide solution were added to a solution of 236 mg (0.54 mmol) of tert-butyl (3RS,4RS)-4-benzo[1,3]dioxol-5-yl-3-(2-cyano-benzyloxy)-piperidine-1-carboxylate in 5 ml of methanol. The reaction solution was heated under reflux for 2 hours. Subsequently, the same amounts of hydrogen peroxide and sodium hydroxide solution were again added and the solution was heated for a further 2 hours. Thereafter, the solution was cooled and evaporated under reduced pressure. For purification, the residue was chromatographed on silica gel using a 9:1 mixture of methylene chloride and ether as the eluent. There were obtained 140 mg (57% of theory) of tert-butyl (3RS,4RS)-4-benzo[1,3]dioxol-5-yl-3-(2-carbamoyl-benzyloxy)-piperidine-1-carboxylate as a colourless solid; MS: 455 (M+H)+.

reactant | hydrogen peroxide | 0.5 ml | OO | H2O2
reactant | sodium hydroxide | 2N, 0.2 ml | [OH-].[Na+]
reactant | tert-butyl (3RS,4RS)-4-benzo[1,3]dioxol-5-yl-3-(2-cyano-benzyloxy)-piperidine-1-carboxylate | 0.54 mmol, 236 mg | O1COC2=C1C=CC(=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=C(C=CC=C2)C#N | C25H28N2O5
solvent | methanol | 5 ml | CO | CH4O
product | tert-butyl (3RS,4RS)-4-benzo[1,3]dioxol-5-yl-3-(2-carbamoyl-benzyloxy)-piperidine-1-carboxylate | 140 mg, 57% | O1COC2=C1C=CC(=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=C(C=CC=C2)C(N)=O | C25H30N2O6
